US07244763B2
Step 2. Preparation of {6-[4-(4-Trifluoromethyl-benzyloxy)-benzyloxy]-benzofuran-3-yl}-acetic acid (Compound 25)
The title compound was prepared in the manner analogous to example 1 using {6-[4-(4-trifluoromethyl-benzyloxy)-benzyloxy]-benzofuran-3-yl}-acetic acid methyl ester and lithium hydroxide. mp 161–163° C.; IR (thin film) cm−1: 1715, 1514, 1331, 1226, 1119, 1069; 400 MHz 1H NMR (DMSO-d6) 12.38 (br s, 1H), 7.68–7.72 (m, 3H), 7.61 (d, 2H, J=8.1 Hz), 7.29–7.41 (m, 3H), 7.18 (d, 1H, J=2.2 Hz), 6.96–7.00 (m, 2H), 6.87–6.89 (m, 1H), 5.19 (s, 2H), 5.01 (s, 2H), 3.58 (s, 2H); MS m/z 455 (M−1). Anal. Calc'd for: C25H19F3O5: C, 65.79; H, 4.20; found: C, 65.54; H, 4.02.

reactant | {6-[4-(4-trifluoromethyl-benzyloxy)-benzyloxy]-benzofuran-3-yl}-acetic acid methyl ester | COC(CC1=COC2=C1C=CC(=C2)OCC2=CC=C(C=C2)OCC2=CC=C(C=C2)C(F)(F)F)=O | C26H21F3O5
reactant | lithium hydroxide | [OH-].[Li+]
product | {6-[4-(4-Trifluoromethyl-benzyloxy)-benzyloxy]-benzofuran-3-yl}-acetic acid | FC(C1=CC=C(COC2=CC=C(COC3=CC4=C(C(=CO4)CC(=O)O)C=C3)C=C2)C=C1)(F)F | C25H19F3O5
